US03983111
3α-Hydroxy-21-morpholino-5α-pregnane-11,20-dione
A solution of 21-morpholino-5α-pregnane-3,11,20-trione (100 mg.) in the "stock" hloroiridic solution (see preparation 6 below) (10 ml.), was refluxed for 14 hours. The cooled mixture was poured into water and made just alkaline. The slight oily precipitate was extracted into ethyl acetate and the extracts were washed with water, dried (Na2SO4), and evaporated to give essentially the title compound, shown by n.m.r. spectroscopy and T.L.C. (Rf 0.16) on silica in ethyl acetate to be identical to the product of Example 38.

reactant | 21-morpholino-5α-pregnane-3,11,20-trione | 100 mg | O1CCN(CC1)CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C25H37NO4
solvent | water | O | H2O
product | 3α-Hydroxy-21-morpholino-5α-pregnane-11,20-dione | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CN5CCOCC5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C25H39NO4
